US07592352B2
3-(Furan-2-yl)-acryloyl azide (12.6 g) was dissolved in 100 ml of toluene and the resultant solution was heated up to 120° C. and stirred for 30 min. After evaporation of solvent, o-dichlorobenzene (100 ml) and a few flakes of iodine were added and resultant reaction mixture was heated up to 170° C. and stirred for 2 hours. The mixture was cooled down to ambient temperature and to this was added Et2O (100 ml). The undissolved matter was filtered off and the filtrate was poured into a mixture of Et2O (100 ml), 1N NaOH (100 ml) and water (100 ml). The corresponding aqueous layer was collected, which was acidified by 2N HCl and extracted with ethyl acetate. The organic layer was separated and dried over Na2SO4, filtered and concentrated in vacuo. The residue was precipitated from Et2O, which was collected and dried under the reduced pressure to give 5H-furo[3,2-c]pyridin-4-one (6.7 g) 1H NMR (400 MHz, DMSO-d6) ppm 11.44 (brs, 1H), 7.87 (d, J=2.3 Hz, 1H), 7.29 (d, J=7.1 Hz, 1H), 6.93 (dd, J=2.1, 0.9 Hz, 1H), 6.66 (dd, J=0.8, 7.1 Hz, 1H).

reactant | 3-(Furan-2-yl)-acryloyl azide | 12.6 g | O1C(=CC=C1)C=CC(=O)N=[N+]=[N-] | C7H5N3O2
reactant | Et2O | 100 ml | CCOCC | C4H10O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5H-furo[3,2-c]pyridin-4-one | 6.7 g | O1C=CC=2C(NC=CC21)=O | C7H5NO2
